US07662830B2
2. 4-Chloro-6-(4-fluorophenyl)-2-(2-(S)-methylpyrrolidin-1-yl)pyrimidine
Heat a mixture of 4,6-dichloro-2-(2-(S)-methylpyrrolidin-1-yl)pyrimidine (2.25 g, 9.74 mmol), 4-fluorophenylboronic acid (10.23 mmol), Pd(PPh3)4 (562 mg, 0.487 mmol), and a 2M potassium phosphate solution (9.74 mL) in dioxane (35 mL) under nitrogen at 80° C. for 16 h. Evaporate the mixture and add water (50 mL). Extract with EtOAc (3×50 mL), dry (Na2SO4), and evaporate. Purify by SiO2 flash chromatography, eluting with 9:1 hexanes:EtOAc to provide the title compound as an oil.

reactant | 4,6-dichloro-2-(2-(S)-methylpyrrolidin-1-yl)pyrimidine | 9.74 mmol, 2.25 g | ClC1=NC(=NC(=C1)Cl)N1[C@H](CCC1)C | C9H11Cl2N3
reactant | 4-fluorophenylboronic acid | 10.23 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 2M, 9.74 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.487 mmol, 562 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-6-(4-fluorophenyl)-2-(2-(S)-methylpyrrolidin-1-yl)pyrimidine | ClC1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@H](CCC1)C | C15H15ClFN3
